US07528143B2
(2-Chloro-pyrimidin-4-yl)-(3-methoxy-2-methyl-phenyl)-amine (Intermediate 70)
A mixture of 3-methoxy-2-methyl-phenylamine (0.68 g, 5 mmol) and 2,4-dichloro-pyrimidine (0.74 g, 5 mmol) were suspended in ethyl alcohol (10 mL) and stirred at room temperature for 20 h. The reaction mixture was diluted with DCM (50 mL), filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography to afford the title compound (0.085 g, 7%) as yellow solids.

reactant | 3-methoxy-2-methyl-phenylamine | 5 mmol, 0.68 g | COC=1C(=C(C=CC1)N)C | C8H11NO
reactant | 2,4-dichloro-pyrimidine | 5 mmol, 0.74 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | ethyl alcohol | 10 mL | C(C)O | C2H6O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (2-Chloro-pyrimidin-4-yl)-(3-methoxy-2-methyl-phenyl)-amine | 0.085 g, 7% | ClC1=NC=CC(=N1)NC1=C(C(=CC=C1)OC)C | C12H12ClN3O
